US08211908B2
To a solution of 0.61 g of 5-methyl-2-((tetrahydro-2H-pyran-2-yloxy)methyl)-4H-pyran-4-one in 3 mL of methanol, 0.03 mL of concentrated hydrochloric acid was added, and the mixture was stirred at room temperature for 1 hour. To the reaction mixture, 0.5 g of potassium carbonate and chloroform were added, and the mixture was stirred for 30 minutes. The insoluble substance was filtered off, the solvent was distilled off under reduced pressure, and the resultant residue was purified by silica gel column chromatography using an eluent of chloroform:methanol=9:1 to obtain 0.26 g of 2-hydroxymethyl-5-methyl-4H-pyran-4-one as a white solid.

reactant | 5-methyl-2-((tetrahydro-2H-pyran-2-yloxy)methyl)-4H-pyran-4-one | 0.61 g | CC=1C(C=C(OC1)COC1OCCCC1)=O | C12H16O4
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 3 mL | CO | CH4O
solvent | hydrochloric acid | 0.03 mL | Cl | ClH
product | 2-hydroxymethyl-5-methyl-4H-pyran-4-one | 0.26 g | OCC=1OC=C(C(C1)=O)C | C7H8O3
